US06794455B2
N,N′-Bis(2-Propenyl)-4,4′-Oxydiphthalimide [ODPA-Bis (N-Allyl)] was synthesized in the following manner. A reaction flask was charged with 4,4′-oxydiphthalic dianhydride (21.7 g, 70 mmoles) in glacial acetic acid solvent (120 ml). Allyl amine (7.98 g, 140 mmoles) was added slowly to the flask while the reaction mixture temperature was controlled at 18° to 22° C. with external cooling. After addition was complete, the reaction mixture was heated to reflux (ca. 115° C.) for 90 min and the solution gradually turned to clear from cloudy. After cooling, the product mixture was poured into water (450 to 500 ml), The resulting mixture was then brought to boiling briefly. After cooling, product precipitated out of solution and was collected by filtration, washed several times with water, and finally with methanol. Product was then dried in a vacuum oven (150 mm Hg, room temperature). The white solid product was obtained in 76%.

reactant | 4,4′-oxydiphthalic dianhydride | 70 mmoles, 21.7 g | C1=CC2=C(C=C1OC3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O7
reactant | Allyl amine | 140 mmoles, 7.98 g | C(C=C)N | C3H7N
reactant | water | 450 to 500 ml | O | H2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | N,N′-Bis(2-Propenyl)-4,4′-Oxydiphthalimide | C(C=C)N1C(C=2C(C1=O)=CC(=CC2)OC=2C=C1C(C(=O)N(C1=O)CC=C)=CC2)=O | C22H16N2O5
